US08044213B2
To a mixture of 0.206 g (2 mmole) of 3-dimethylamino-propan-1-ol, and 2 mL of pyridine (2 ml) was added 0.001 g of 4-dimethylaminopyridine and 0.381 g (2 mmole) of p-toluenesulphonyl chloride. The mixture was stirred at ambient temperature overnight and then concentrated under reduced pressure. The residue was taken up in 10 mL of dichloromethane and washed once with 5 mL of saturated sodium bicarbonate, twice with 5 mL of water, and then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 0.085 g of toluene-4-sulfonic acid 3-dimethylamino-propyl ester as a colorless oil.

reactant | 3-dimethylamino-propan-1-ol | 2 mmole, 0.206 g | CN(CCCO)C | C5H13NO
reactant | p-toluenesulphonyl chloride | 2 mmole, 0.381 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-dimethylaminopyridine | 0.001 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | toluene-4-sulfonic acid 3-dimethylamino-propyl ester | 0.085 g | CN(CCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C12H19NO3S
